US07838518B2
(A): 2,3-dimethyl-4-methoxy benzene-1-sulfonyl chloride
2,3-Dimethylanisole (1 cm3, 7.23 mmol) was dissolved into dichloromethane (4 cm3) and cooled to 0° C. Chlorosulfonyl chloride (2 cm3, 30.0 mmol) was then added dropwise, over 10 min and once the addition was completed the mixture was allowed to warm to room temperature and stirred for a further 45 min. The reaction was then quenched by the slow addition of ice/water (50 cm3, CARE, exotherm) before further dichloromethane (30 cm3) and water (30 cm3) were added and the organic layer was collected. The aqueous layer was washed with dichloromethane (15 cm3) and then organic extracts were combined and washed with saturated aqueous sodium chloride solution (70 cm3) before being dried over sodium sulfate. The solvent was evaporated under reduced pressure to afford title compound (1.6 g, 6.82 mmol, 94% yield).

reactant | 2,3-Dimethylanisole | 7.23 mmol, 1 cm3 | CC1=C(C=CC=C1C)OC | C9H12O
reactant | Chlorosulfonyl chloride | 30.0 mmol, 2 cm3 | ClS(=O)(=O)Cl | Cl2O2S
solvent | dichloromethane | 4 cm3 | ClCCl | CH2Cl2
product | 2,3-dimethyl-4-methoxy benzene-1-sulfonyl chloride | 6.82 mmol, 1.6 g, 94% yield | CC1=C(C=CC(=C1C)OC)S(=O)(=O)Cl | C9H11ClO3S
